US04643849
In 50 ml of anhydrous ethanol was suspended 9.3 g of 1-methylsulfinyl-1-methylthio-2-nitroethene, and the resulting suspension was stirred. A solution of 9.3 g of DL-[2-hydroxy-2-(3-methylphenyl)ethyl]amine in 5 ml of ethanol was added thereto dropwise at -10° C. to 0° C. over a period of 30 minutes in a nitrogen atmosphere. After the addition, the resulting mixture was stirred at the same temperature for 1.5 hours, and the crystals deposited were collected by filtration, washed with 10 ml of ethanol, and then dried to obtain 7.0 g (yield 50.8%) of 1-{[2-hydroxy-2-(3-methylphenyl)ethyl]amino}-1-methylthio-2-nitroethene having a melting point of 99°-101° C.

reactant | 1-methylsulfinyl-1-methylthio-2-nitroethene | 9.3 g | CS(=O)C(=C[N+](=O)[O-])SC | C4H7NO3S2
reactant | DL-[2-hydroxy-2-(3-methylphenyl)ethyl]amine | 9.3 g | CC1=CC(=CC=C1)C(CN)O | C9H13NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-{[2-hydroxy-2-(3-methylphenyl)ethyl]amino}-1-methylthio-2-nitroethene | 7.0 g, yield 50.8% | OC(CNC(=C[N+](=O)[O-])SC)C1=CC(=CC=C1)C | C12H16N2O3S
